* HostSim 3-Phase Inverter + Wye RL Load SPICE Netlist
* External voltage sources are driven by HostSim via libngspice callbacks.

.param VDC = 48.0
.param RS = 0.05
.param LS = 0.0001

* Phase U external source
Vu u_node 0 dc 0 external
Ru u_node u_mid {RS}
Lu u_mid n_node {LS}

* Phase V external source
Vv v_node 0 dc 0 external
Rv v_node v_mid {RS}
Lv v_mid n_node {LS}

* Phase W external source
Vw w_node 0 dc 0 external
Rw w_node w_mid {RS}
Lw w_mid n_node {LS}

* Without UIC the OP shorts the inductors and the transient starts from the
* DC operating point (~416A inrush); UIC forces the zero-current cold start.
.tran 10us 1s uic

.end
